US20010006969A1
4-Allylamino-2-(2-aminoethylamino)-6-nitroquinazoline
A mixture of 230 mg (0.87 mmol) of 4-allylamino-2-chloro-6-nitroquinazoline and 899 mg (14.96 mmol) of ethylenediamine was stirred at room temperature for 2 hours. Water was added to the reaction mixture, followed by extraction with ethyl acetate, washing with brine and drying over anhydrous sodium sulfate. After the solvent was distilled off, the residue was purified by a silica gel column to give 200 mg (yield: 79.9%) of the title compound.

reactant | 4-allylamino-2-chloro-6-nitroquinazoline | 0.87 mmol, 230 mg | C(C=C)NC1=NC(=NC2=CC=C(C=C12)[N+](=O)[O-])Cl | C11H9ClN4O2
reactant | ethylenediamine | 14.96 mmol, 899 mg | C(CN)N | C2H8N2
solvent | Water | O | H2O
product | 4-Allylamino-2-(2-aminoethylamino)-6-nitroquinazoline | 200 mg, yield: 79.9% | C(C=C)NC1=NC(=NC2=CC=C(C=C12)[N+](=O)[O-])NCCN | C13H16N6O2
